US04766131
N-(4-nitrophenylacetyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline
To a stirred solution of 1,2,3,4-tetrahydro-6,7-dimethoxy-1-methyl-isoquinoline (35.2 g, 0.17 m) in methylene chloride (50 ml) under nitrogen at ambient temperature was added p-nitrophenylacetic acid (31.4 g, 0.17 m) and then portionwise dicyclohexylcarbodiimide (37.0 g, 0.18 m) and the mixture stirred for 3 hr. The precipitated solid was removed by filtration and the filtrate evaporated to an oily residue. The residue was treated with 500 ml methanol and the solid precipitate collected by filtration to give, after drying, N-(4-nitrophenylacetyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline as a yellow solid, 66.0 g (100+% yield). The product contains a small amount of dicyclohexylurea.

reactant | 1,2,3,4-tetrahydro-6,7-dimethoxy-1-methyl-isoquinoline | 35.2 g | COC=1C=C2CCNC(C2=CC1OC)C | C12H17NO2
reactant | p-nitrophenylacetic acid | 31.4 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | dicyclohexylcarbodiimide | 37.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(4-nitrophenylacetyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)N1C(C2=CC(=C(C=C2CC1)OC)OC)C | C20H22N2O5
